US07776897B2
Triethylamine and ethyl isocyanate were added to a chloroform solution (3 ml) of 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl}phenol (20 mg), followed by stirring at 60° C. for 3 hours. After concentration, a small amount of ethyl acetate was added to the residue and the resulting crystalline powder was filtered to obtain 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl}phenyl ethylcarbamate.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl}phenol | 20 mg | N(C1=CC=CC=C1)C(C)(C)C=1N(C(=NN1)C1=CC=C(C=C1)O)C | C18H20N4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[5-(1-anilino-1-methylethyl)-4-methyl-4H-1,2,4-triazol-3-yl}phenyl ethylcarbamate | C(C)NC(OC1=CC=C(C=C1)C1=NN=C(N1C)C(C)(C)NC1=CC=CC=C1)=O | C21H25N5O2
